* C:\CSharp\AAU\ESD4\project\BJT-mixer-test.asc
Q1 P001 N002 N004 0 BC337-25
Q2 N001 N003 N004 0 BC337-25
RE1 N004 N005 150
RE2 N005 0 3k
CE1 N005 0 440µF
RB1 vcc N002 220k
RB2 N002 0 220k
R1 N003 0 220k
RB3 vcc N003 220k
CB_lo1 N002 LO-Out 47µF
CB_pitch1 RF-Out N003 47µ
CC1 MixOut N001 47µF
RC_pitch1 vcc N001 3k
RC_lo1 vcc P001 3k
V1 vcc 0 12
V2 LO-Out 0 SINE(0 0.5 240000)
V3 RF-Out 0 SINE(0 1.25 242000)
Q3 0 N006 P002 0 BC337-25
RB4 vcc N006 220k
RB5 N006 0 110k
R2 P002 0 470
.model NPN NPN
.model PNP PNP
.lib C:\Users\mikkel\AppData\Local\LTspice\lib\cmp\standard.bjt
* Mixer
.tran 0 0.3 0.1 0.0001
.fourier 2K V(MixOut)
.backanno
.end
