* Z:\home\mikkel\repoes\ESD4\project\heterodyneMixing\Draft2.asc
RB1 vcc N002 309k
RC1 vcc Collector 4k7
RE1 N003 0 1k
RB2 N002 0 110k
C3 Collector Out 1µ
C4 N001 N002 1µ
V1 vcc 0 12
V2 N001 0 SINE(0 0.02 300k)
R3 Out 0 10k
C1 N003 0 1µ
Q1 Collector N002 N003 0 NPN
.model NPN NPN
.model PNP PNP
.lib C:\users\mikkel\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 0.01 0 0.0001
* .ac dec 0.001 20 2Meg
.backanno
.end
