* C:\Users\Ditte\aauRepo\esd4\project\heterodyneMixing\improvedHomeBuildMixer.asc
R2 mid N004 4.7
R3 mid N006 4.7
C2 N004 N003 0.1µ
C3 N006 N005 0.1µ
V1 N005 0 SINE(0 10 258k)
V2 N003 0 SINE(0 12 260k)
C1 mid 0 470p
C4 output N002 22µ
R1 N001 mid 2.2m
R4 N001 N002 3.9K
C5 N001 0 100µ V=16
V3 N001 0 12
Q1 N002 mid 0 0 2N2222
.model NPN NPN
.model PNP PNP
.lib C:\Users\Ditte\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 0.005 0 0.0001
.backanno
.end
