* C:\Users\Ditte\aauRepo\esd4\project\heterodyneMixing\sysMixerWithBJT.asc
XU1 N023 N014 N018 N021 BF992
R_e 0 N014 100K
R_vcc N023 VCC 4.7K
C_c MixOut N023 1µ
R3 N005 0 1k
R9 0 N001 10.9K
R5 N001 0 607
V1 VA 0 SINE(0 1 270K)
V2 LO 0 SINE(0 2 272K)
V3 VCC 0 6
R_va N021 0 1k
R_lo N018 0 1k
XU3 N005 N001 POS NEG 0 OP27
D1 N007 0 D
R7 N008 N007 1000k
C3 N008 0 220p
C2 N007 0 30p
R8 N006 0 1k
R10 0 N002 10.9K
R11 N002 0 607
XU2 N006 N002 POS NEG 0 OP27
XU4 0 N003 POS NEG N004 OP27
R12 N003 0 1k
R13 N004 N003 1k
C4 final N004 1µ
Q1 N015 MixOut N022 0 BC337-25
R14 VCC N015 4.7K
R15 N022 0 1k
R16 VCC MixOut 309K
R17 MixOut 0 110K
C6 Amp1-Out N015 1µF
Q2 N013 N016 N017 0 BC337-25
R18 VCC N013 4.7k
R20 VCC N016 309K
C5 Amp2-Out N013 1µF
C7 N009 N008 1µF
L1 N010 N011 2.39m
L2 N011 3order 795µ
C8 N011 0 636.62n
R22 3order 0 50
L3 Amp1-Out N019 68m
L4 N019 N020 68m
C9 N019 0 56n
C10 N020 0 33n
L5 N020 FilterOut 10m
R23 FilterOut 0 1k
D3 N010 0 D
C11 N016 FilterOut 1µF
C12 N012 3order 1µF
R24 N017 0 1k
R25 N016 0 110K
C_va N021 VA 1µ
C_lo N018 LO 1µ
C1 Amp1-Out 0 56n
.model D D
.lib C:\Users\Ditte\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Ditte\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 0.005 0 0.000001
* A = 42 (suspected)
* A = 42 (suspected)
.lib ADI.lib
.lib Dg_nmos.lib
.backanno
.end
